US08183275B2
2-(4-{2-[4-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]ethyl}-2-hydroxyphenyl)pyridine
A solution of 2-(4-{2-[4-(2,2-Dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}-2-methoxyphenyl)pyridine (110 mg, 0.19 mmol) in 30% HBr in acetic acid (5 mL) was heated at reflux in a sealed tube for 6 hours. Upon cooling, the volatiles were removed, and the resulting residue was purified by flash column chromatography on silica gel eluting with 0-5% methanol/ammonium hydroxide mixture in methylene chloride to give the title compound, which was converted to the HCl salt with 1M HCl in diethyl ether. 1H NMR (500 MHz, CD3OD) δ 8.75-8.73 (δ, J=5.8 Hz, 1H) 8.57-8.54 (t, J=7.6 Hz, 1H), 8.35-8.32 (d, J=8.3 Hz, 1H), 7.92-7.88 (t, J=6.6 Hz, 1H), 7.75-7.72 (d, J=8.4 Hz, 1H), 7.17 (s, 1H), 6.92-6.90 (m, 2H), 3.40-3.30 (t, 2H, masked by solvent), 3.17-3.12 (t, J=7.0 Hz, 2H), 2.52 (s, 2H), 1.28-1.21 (q, J=7.7 Hz, 2H), 0.89-0.82 (m, 9H); LC-MS: m/e 350 (M+H).

reactant | 2-(4-{2-[4-(2,2-Dimethylbutyl)-1-trityl-1H-imidazol-2-yl]ethyl}-2-methoxyphenyl)pyridine | 0.19 mmol, 110 mg | CC(CC=1N=C(N(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCC1=CC(=C(C=C1)C1=NC=CC=C1)OC)(CC)C | C42H43N3O
solvent | HBr | Br | BrH
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | 2-(4-{2-[4-(2,2-Dimethylbutyl)-1H-imidazol-2-yl]ethyl}-2-hydroxyphenyl)pyridine | CC(CC=1N=C(NC1)CCC1=CC(=C(C=C1)C1=NC=CC=C1)O)(CC)C | C22H27N3O
